US05114960
7.7 g of diethyl 3-(4-chlorophenyl)-4,5,6,7-tetrahydro-1,2-benzisoxazole-5,5-dicarboxylate were treated with 2.74 g of potassium hydroxide in 16 ml of water and 65 ml of ethanol at 20° C. for 3 days. After removal of the ethanol by evaporation and acidification with 2N hydrochloric acid, the product was taken up in ethyl acetate. There were obtained 6.7 g of 3-(4-chlorophenyl)-4,5,6,7-tetrahydro-1,2-benzisoxazole-5,5-dicarboxylic acid as a buff colored solid of melting point 200°-202° C. (decomposition).

reactant | diethyl 3-(4-chlorophenyl)-4,5,6,7-tetrahydro-1,2-benzisoxazole-5,5-dicarboxylate | 7.7 g | ClC1=CC=C(C=C1)C1=NOC2=C1CC(CC2)(C(=O)OCC)C(=O)OCC | C19H20ClNO5
reactant | potassium hydroxide | 2.74 g | [OH-].[K+]
solvent | water | 16 ml | O | H2O
solvent | ethanol | 65 ml | C(C)O | C2H6O
product | 3-(4-chlorophenyl)-4,5,6,7-tetrahydro-1,2-benzisoxazole-5,5-dicarboxylic acid | 6.7 g | ClC1=CC=C(C=C1)C1=NOC2=C1CC(CC2)(C(=O)O)C(=O)O | C15H12ClNO5
